US08071779B2
tert-Butyl 3-(1-Pivaloyl-1H-indazol-5-ylamino)piperidine-1-carboxylate
Into a 1 L 3-neck round bottom flask fitted with a nitrogen inlet and mechanical stirrer was added tert-butyl 3-oxopiperidine-1-carboxylate (14.2 g, 0.07 mol), 1,2-dichloroethane (300 mL), and 1-(5-amino-1H-indazol-1-yl)-2,2-dimethylpropan-1-one maleate salt (23.0 g, 0.07 mol). The vessel was purged with nitrogen and stirred at 20° C. for one hour. Sodium triacetoxyborohydride (19.0 g, 0.09 mol) was added, and the reaction was monitored by analytical TLC to completion. The reaction was diluted with 100 mL of saturated sodium bicarbonate. The organic phase was isolated, dried over MgSO4, filtered and evaporated to dryness to afford the title compound as a yellow solid (25.0 g, 91%).

reactant | tert-butyl 3-oxopiperidine-1-carboxylate | 0.07 mol, 14.2 g | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
reactant | 1-(5-amino-1H-indazol-1-yl)-2,2-dimethylpropan-1-one maleate salt | 0.07 mol, 23.0 g | C(\C=C/C(=O)O)(=O)O.NC=1C=C2C=NN(C2=CC1)C(C(C)(C)C)=O
reactant | Sodium triacetoxyborohydride | 0.09 mol, 19.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | tert-Butyl 3-(1-Pivaloyl-1H-indazol-5-ylamino)piperidine-1-carboxylate | 25.0 g, 91% | C(C(C)(C)C)(=O)N1N=CC2=CC(=CC=C12)NC1CN(CCC1)C(=O)OC(C)(C)C | C22H32N4O3
